US09108938B2
To a mixture of pyrimidine-5-carbaldehyde (2 g, 18.52 mmol) and TMSCN (3.67 g, 37.0 mmol) in HOAc (50 mL) was added morpholine (2.42 g, 27.8 mmol) at room temperature and NaOAc (3.34 g, 40.7 mmol) was followed. The resulting mixture was stirred at room temperature overnight. Saturated aqueous Na2CO3 solution was added to quench the reaction mixture, the pH was adjusted to about 7 and extracted with EtOAc (3×100 mL). The combined organic layer was washed with brine, dried over Na2SO4 and concentrated to give crude 2-morpholino-2-(pyrimidin-5-yl)acetonitrile (2.5 g, yield: 66%). 1H NMR (CDCl3 400 MHz): δ9.25 (s, 1H), 8.92 (d, J=10.0 Hz, 2H), 4.87 (s, 1H), 3.79-3.70 (m, 4H), 2.67-2.56 (m, 4H).

reactant | pyrimidine-5-carbaldehyde | 18.52 mmol, 2 g | N1=CN=CC(=C1)C=O | C5H4N2O
reactant | TMSCN | 37.0 mmol, 3.67 g | [Si](C)(C)(C)C#N | C4H9NSi
reactant | morpholine | 27.8 mmol, 2.42 g | N1CCOCC1 | C4H9NO
reactant | NaOAc | 40.7 mmol, 3.34 g | CC(=O)[O-].[Na+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | HOAc | 50 mL | CC(=O)O | C2H4O2
product | 2-morpholino-2-(pyrimidin-5-yl)acetonitrile | 2.5 g, yield: 66% | O1CCN(CC1)C(C#N)C=1C=NC=NC1 | C10H12N4O
